US06924374B2
1-Benzyl-4-(4-chloro-3-trifluoromethyl-phenyl)-piperidine
1-Benzyl-4-(4-chloro-3-trifluoromethyl-phenyl)-1,2,3,6-tetrahydro-pyridine (1.45 g) was dissolved in methanol (40 ml). Concentrated hydrochloric acid (0.2 ml) and 50 mg Pd/C, were added. The resulting mixture was hydrogenated under a hydrogen gas pressure (40 psi) for 1 h and then filtered through a pad of celite. The solvent was evaporated in vacuum and the residue was purified by flash chromatography (SiO2, CH2Cl2:MeOH, 9:1 (v/v)) to give the pure title compound (1.2 g). MS m/z (relative intensity, 70 eV) 353 (M+, 16), 262 (20), 91 (bp), 65 (18), 56 (14).

reactant | 1-Benzyl-4-(4-chloro-3-trifluoromethyl-phenyl)-1,2,3,6-tetrahydro-pyridine | 1.45 g | C(C1=CC=CC=C1)N1CCC(=CC1)C1=CC(=C(C=C1)Cl)C(F)(F)F | C19H17ClF3N
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | methanol | 40 ml | CO | CH4O
catalyst | Pd/C | 50 mg | [Pd] | Pd
product | 1-Benzyl-4-(4-chloro-3-trifluoromethyl-phenyl)-piperidine | 1.2 g | C(C1=CC=CC=C1)N1CCC(CC1)C1=CC(=C(C=C1)Cl)C(F)(F)F | C19H19ClF3N
